US08222263B2
To a solution of 4-phenyl-N-(piperidine-4-yl)quinazolin-2-amine (0.34 g, 1.0 mmol), cyclohexanecarboxylic acid (0.15 g, 1.2 mmol), and triethylamine (1.38 mL, 10 mmol) in dimethylformamide (15 mL) was added O-(7-azabenzotriazol-1-yloxy)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 0.57 g, 1.5 mmol) and the solution was stirred at rt for 16 h. An aqueous 5% solution of lithium chloride (100 mL) was added and the resulting solid was filtered and recrystallized in methanol/methyl-tert-butyl ether to yield N-[1-(cyclohexylcarbonyl)piperidin-4-yl]-4-phenylquinazolin-2-amine (0.32 g, 77%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 11.81 (d, 1H), 7.70-7.65 (m, 4H), 7.56-7.53 (m, 3H), 7.21-7.16 (m, 1H), 5.26 (d, 1H), 4.52 (m, 1H), 4.34-4.28 (m, 1H), 3.92 (m, 1H), 3.28 (t, 1H), 2.94 (t, 1H), 2.51 (tt, 2H), 2.29-2.16 (m, 2H), 1.83-1.69 (m, 5H), 1.57-1.44 (m, 4H), 1.30-1.26 (m, 2H). MS (EI) for C26H30N4O: 415.3 (MH+).

reactant | 4-phenyl-N-(piperidine-4-yl)quinazolin-2-amine | 1.0 mmol, 0.34 g | C1(=CC=CC=C1)C1=NC(=NC2=CC=CC=C12)NC1CCNCC1 | C19H20N4
reactant | cyclohexanecarboxylic acid | 1.2 mmol, 0.15 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | triethylamine | 10 mmol, 1.38 mL | C(C)N(CC)CC | C6H15N
reactant | O-(7-azabenzotriazol-1-yloxy)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.5 mmol, 0.57 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OOC(=[N+](C)C)N(C)C
reactant | lithium chloride | 100 mL | [Cl-].[Li+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-[1-(cyclohexylcarbonyl)piperidin-4-yl]-4-phenylquinazolin-2-amine | 0.32 g, 77% | C1(CCCCC1)C(=O)N1CCC(CC1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1 | C26H30N4O
